US04022833
Condensation of 3-methyl-1-pentene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxy-3-methylpentylamine] (I: R= CH3CH2 (CH3)C, R' = H, X= (CH2)6, Z= H).

reactant | 3-methyl-1-pentene oxide | CC(C1CO1)CC | C6H12O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxy-3-methylpentylamine] | C(CCCCCNCC(C(CC)C)O)NCC(C(CC)C)O | C18H40N2O2
